US05726165
(S)4-{2-[2-Hydroxy-3-(4-hydroxyphenoxy)propylamino]ethyl}phenoxymethyl-n-hexylphosphinic acid
The title compound was prepared from (S)-4-{2-[2-hydroxy-3-(4-hydroxyphenoxy)propylamino]ethyl}phenoxymethyl-n-hexyl phosphinic acid, n-butyl ester according a modification of the procedure described in Example 25. Acidification to pH 6 with 1M hydrochloric acid followed by C18 reverse phase chromatography and freeze drying gave the title compound as a solid.

reactant | (S)-4-{2-[2-hydroxy-3-(4-hydroxyphenoxy)propylamino]ethyl}phenoxymethyl-n-hexyl phosphinic acid, n-butyl ester | OC(CNCCC(CCC[P@@](OCCCC)(=O)COC1=CC=CC=C1)CC)COC1=CC=C(C=C1)O | C28H44NO6P
reactant | hydrochloric acid | 1M | Cl | ClH
product | (S)4-{2-[2-Hydroxy-3-(4-hydroxyphenoxy)propylamino]ethyl}phenoxymethyl-n-hexylphosphinic acid | OC(CNCC[C@H](CCCP(O)(=O)COC1=CC=CC=C1)CC)COC1=CC=C(C=C1)O | C24H36NO6P
